US06384028B1
To a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(R)-(3,4-dimethoxyphenethyl)-β-alanine (1.33 g) in ethyl acetate (10 ml) was added 4N HCl in 1,4-dioxane (5.53 ml) at 0° C., and the reaction mixture was stirred for 3 hours at room temperature. The precipitates were filtered, washed with diethyl ether and resolved in water, neutralized with saturated aqueous NaHCO3, desalted by using the resin of HP-20 eluting with isopropanol:H2O=(1:1), then freeze-dried to give N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(R)-(3,4-dimethoxyphenethyl)-β-alanine as a white powder (0.88 g, 79.4%).

reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(R)-(3,4-dimethoxyphenethyl)-β-alanine | 1.33 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)CCC1=CC(=C(C=C1)OC)OC | C32H47N3O8
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5.53 ml | O1CCOCC1 | C4H8O2
product | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(R)-(3,4-dimethoxyphenethyl)-β-alanine | 0.88 g, 79.4% | N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)CCC1=CC(=C(C=C1)OC)OC | C27H39N3O6
